US05089513
Benzyl bromide was reacted with ethyl vanillate using the conditions described in Example 1 to give ethyl 4-benzyloxy-3-methoxybenzoate in 97% yield m.p. 72°-74° C. Following the procedures described in the portion of Example 6 which is concerned with the preparation of starting materials the product so obtained was reacted with thiazol-2-yl-lithium and the resultant product was reacted with ethylmagnesium iodide to give the required starting material as an oil in 20% yield.

reactant | Benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl vanillate | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
product | ethyl 4-benzyloxy-3-methoxybenzoate | 97% yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC)C=C1)OC | C17H18O4
